US07648992B2
a) 2-Methyl-5-[(trimethylsilyl)ethynyl]pyrimidine
5-Bromo-2-methyl-pyrimidine (prepared according to UK patent application GB 2 157 288) (0.2 g, 1.16 mmol), (trimethylsilyl)acetylene (164 μL, 1.3 mmol), CuI (0.022 g, 0.116 mmol) and PdCl2(PPh3)2 (0.082 g, 0.116 mmol) in Et3N (2 mL) and THF (2 mL) were stirred at 80° C. for 4 h. After cooling, the solvents were removed under vacuum and the residue chromatographed to give the subtitle compound (0.16 g, 50%).

reactant | 5-Bromo-2-methyl-pyrimidine | 1.16 mmol, 0.2 g | BrC=1C=NC(=NC1)C | C5H5BrN2
reactant | (trimethylsilyl)acetylene | 1.3 mmol, 164 μL | C[Si](C)(C)C#C | C5H10Si
solvent | Et3N | 2 mL | CCN(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.116 mmol, 0.022 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.116 mmol, 0.082 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Methyl-5-[(trimethylsilyl)ethynyl]pyrimidine | 0.16 g, 50% | CC1=NC=C(C=N1)C#C[Si](C)(C)C | C10H14N2Si
